US04337250
1-Acetylpiperazine (1.28 g, 10 mmoles), 1,2-dichloroethane (5 g, 50 mmoles), anhydrous sodium carbonate (2.5 g) and potassium iodide (25 mg) are combined in 40 ml of 3-methyl-2-butanone and refluxed for 16 hours. The reaction mixture is evaporated to dryness in vacuo and the residue distributed between 100 ml of water and 150 ml of methylene chloride. The methylene chloride layer is dried over anhydrous magnesium sulfate and evaporated to dryness to yield 2-(4-acetylpiperazino)-ethyl chloride.

reactant | 1-Acetylpiperazine | 10 mmoles, 1.28 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 1,2-dichloroethane | 50 mmoles, 5 g | ClCCCl | C2H4Cl2
reactant | sodium carbonate | 2.5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 25 mg | [I-].[K+]
solvent | 3-methyl-2-butanone | 40 ml | CC(C(C)=O)C | C5H10O
product | 2-(4-acetylpiperazino)-ethyl chloride | C(C)(=O)N1CCN(CC1)CCCl | C8H15ClN2O
